US07652004B2
tert-Butyl 13-cyclohexyl-3-methoxy-6-(4-(methoxycarbonyl)-1,3-oxazol-5-yl)-7H-indolo[2,1-a][2]benzazepine-10-carboxylate.
10-(tert-butoxycarbonyl)-13-cyclohexyl-3-methoxy-7H-indolo[2,1-a][2]benzazepine-6-carboxylic acid (1.00 g, 2.051 mmol) was dissolve in DMF (10 ml) and potassium carbonate (0.624 g, 4.51 mmol) was added to the reaction followed by methyl isocyanoacetate (0.24 ml, 2.64 mmol). The reaction was stirred under a nitrogen atmosphere at room temperature for approximately 5 minutes then cooled to 0 C. Diphenylphosphoryl azide (0.5 ml, 2.320 mmol) was slowly added to the reaction over 10 minutes. The reaction was stirred at 0 C under a nitrogen atmosphere and allowed to slowly warm to room temperature overnight. Dilute reaction. with 100 ml of benzene/ethyl acetate (1:1) and wash with water. Back extract aqueous layer using ethyl acetate. Combine organic extracts and wash successively with 0.1M aqueous citric acid, saturated aqueous sodium bicarbonate and then brine and dry over magnesium sulfate. Filter and remove volatiles in vacuuo. Chromatograph on 43.4 g of silica gel slurry packed in 5% ethyl acetate/dichloromethane. Elute with 5% ethyl acetate/dichloromethane. Combination of pure product fractions and removal of volatiles in vacuuo yielded 215 mg of an amorphous yellow solid. Combination of less pure fractions yielded an additional 189 mg of product with purity greater than 92%. 1H NMR (500 MHz, CHLOROFORM-D) δ ppm 1.11-1.29 (m, 2H) 1.30-1.48 (m, 3H) 1.57 (s, 2H) 1.61 (s, 10H) 1.69-1.80 (m, 2H) 1.86-1.98 (m, 1H) 1.99-2.13 (m, 4H) 2.76-2.90 (m, 1H) 3.92 (s, 3H) 3.98 (s, 3H) 4.47 (d, J=12.82 Hz, 1H) 5.84 (d, J=14.65 Hz, 1H) 7.02 (d, J=2.44 Hz, 1H) 7.07 (dd, J=8.55, 2.75 Hz, 1H) 7.53 (d, J=8.55 Hz, 1H) 7.65-7.71 (m, 1H) 7.82 (d, J=8.24 Hz, 1H) 7.87 (s, 1H) 8.08 (s, 1H) 8.16 (s, 1H). LC-MS retention time 2.75 min; m/z (MH+). LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters Xterra MS 7u C18 3.0×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 3 min, a hold time of 0 min, and an analysis time of 3 min where solvent A was 5% acetonitrile/95% H2O/10 mM ammonium acetate and solvent B was 5% H2O/95% acetonitrile/10 mM ammonium acetate. MS data was determined using a Micromass Platform for LC in electrospray mode.

reactant | 10-(tert-butoxycarbonyl)-13-cyclohexyl-3-methoxy-7H-indolo[2,1-a][2]benzazepine-6-carboxylic acid | 2.051 mmol, 1.00 g | C(C)(C)(C)OC(=O)C=1C=CC=2C(=C3N(CC(=CC4=C3C=CC(=C4)OC)C(=O)O)C2C1)C1CCCCC1 | C30H33NO5
reactant | potassium carbonate | 4.51 mmol, 0.624 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl isocyanoacetate | 2.64 mmol, 0.24 ml | [N+](#[C-])CC(=O)OC | C4H5NO2
reactant | Diphenylphosphoryl azide | 2.320 mmol, 0.5 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | tert-Butyl 13-cyclohexyl-3-methoxy-6-(4-(methoxycarbonyl)-1,3-oxazol-5-yl)-7H-indolo[2,1-a][2]benzazepine-10-carboxylate | 215 mg | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(C=C(C2)C2=C(N=CO2)C(=O)OC)C=C(C=C1)OC)C(=O)OC(C)(C)C | C34H36N2O6
